US09233920B2
4-[(E)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester (0.100 g, 0.218 mmol) and (benzhydrylidene-amino)-acetic acid tert-butyl ester (0.079 g, 0.261 mmol) were dissolved in acetonitrile (5.0 ml). Potassium hydroxide (0.013 g, 0.239 mmol) and antracen-9-yl-methyl quininium chloride (0.030 g, 0.054 mmol) were added and the resulting mixture was heated at 90 C for 6 days. At this time water was added and the reaction mixture was extracted with dichloromethane (3×). The crude product was purified by flash chromatography (0% to 15% ethyl acetate in cyclohexane) to afford 4-[3-[(Benzhydrylidene-amino)-tert-butoxycarbonyl-methyl]-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester (0.035 g, 21%) as a white solid. Chiral HPLC analysis (Chiralpack IA, heptanes:t-buthanol=98:2, 1 ml/min, retention time 8.50 minutes and 9.23 minutes (enantiomers of the minor diasteromer); 13.37 minutes and 14.81 (enantiomers of the major diastereomer) indicated that the reaction products were formed in diastereomeric ratio 2:1.

reactant | 4-[(E)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester | 0.218 mmol, 0.100 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H19Cl2F3O3
reactant | (benzhydrylidene-amino)-acetic acid tert-butyl ester | 0.261 mmol, 0.079 g | C(C)(C)(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H21NO2
reactant | Potassium hydroxide | 0.239 mmol, 0.013 g | [OH-].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
product | 4-[3-[(Benzhydrylidene-amino)-tert-butoxycarbonyl-methyl]-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester | 0.035 g, 21% | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(CC(C(F)(F)F)(C1=CC(=CC(=C1)Cl)Cl)C(C(=O)OC(C)(C)C)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C)=O | C41H40Cl2F3NO5
